US05130483
In 50 ml of methylene chloride is suspended 2.20 g of 5-(4'-hydroxy 3'-methoxyphenyl)pentadienoic acid under an argon atmosphere. To the suspension cooled to -10° C. are added 2.92 ml of triethylamine and 2.16 g of ethyl chlorocarbonate. To the mixture, after stirred for one hour, is added a solution of 1.28 g of prenylamine in 10 ml of methylene chloride, and the resulting mixture is stirred at -10° C. to 0° C. for 3 hours. The reaction mixture is poured onto water and extracted with chloroform. The organic layer is washed with saturated aqueous sodium chloride and dried over anhydrous sodium sulfate. The solvent is then distilled off under reduced pressure, and the residue is subjected to column chromatography on silica gel. From the fraction eluted with methylene chloride-methanol (99:1) is obtained 2.91 g of 5-(4'-ethoxycarbonyloxy-3'-methoxyphenyl)pentadienoic acid prenylamide.

reactant | 5-(4'-hydroxy 3'-methoxyphenyl)pentadienoic acid | 2.20 g | OC1=C(C=C(C=C1)C=CC=CC(=O)O)OC | C12H12O4
reactant | triethylamine | 2.92 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorocarbonate | 2.16 g | C(OCC)(=O)Cl | C3H5ClO2
reactant | prenylamine | 1.28 g | C(C=C(C)C)N | C5H11N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 5-(4'-ethoxycarbonyloxy-3'-methoxyphenyl)pentadienoic acid prenylamide | 2.91 g | C(C=C(C)C)NC(C=CC=CC1=CC(=C(C=C1)OC(=O)OCC)OC)=O | C20H25NO5
